US07452886B2
7-(2,2-Dimethyl-propyl)-6-(1-methyl-2,4-dioxo-3-propyl-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-3-propyl-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.2 g, 0.48 mmol) in DMF (2 ml), NaH (22 mg, 0.55 mmol) and MeI (50 □1, 0.55 mmol) are added at 0° C. The reaction mixture is stirred at ambient temperature for 4 h, quenched with saturated ammonium chloride and extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and filtrated The combined extracts are concentrated and the residue is purified by column chromatography on silica gel using CH2Cl2:MeOH=25:1 (v/v) and CH2Cl2:MeOH=15:1 (v/v) to give 71 mg of desired product in 34% yield.

reactant | 7-(2,2-dimethyl-propyl)-6-(2,4-dioxo-3-propyl-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.48 mmol, 0.2 g | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC1(C(N(C(N1)=O)CCC)=O)CC2)(C)C | C23H31N7O2
reactant | NaH | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | MeI | 0.55 mmol | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-(2,2-Dimethyl-propyl)-6-(1-methyl-2,4-dioxo-3-propyl-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 71 mg, 34% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC1(C(N(C(N1C)=O)CCC)=O)CC2)(C)C | C24H33N7O2
